US04367238
A mixture of phenyl 2-methoxy-3-methylphenyl ether (6 g), N-bromosuccinimide (5.2 g) and azobisisobutyronitrile (500 mg) in dried benzene (60 ml) was treated in a similar manner to that of Example 14-(3) to give oily phenyl 2-methoxy-3-bromomethylphenyl ether (8.5 g).

reactant | phenyl 2-methoxy-3-methylphenyl ether | 6 g | COC1=C(C=CC=C1C)OC1=CC=CC=C1 | C14H14O2
reactant | N-bromosuccinimide | 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 500 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | phenyl 2-methoxy-3-bromomethylphenyl ether | 8.5 g | COC1=C(C=CC=C1CBr)OC1=CC=CC=C1 | C14H13BrO2
